US07067517B2
Methyl-phenyl-carbamic acid 4-acetyl-phenyl ester
The title product was prepared from 4′-hydroxyacetophenone and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (78%, colourless oil). HPLC-MS: m/z=270.1 (M+1); Rt: 3.62 min.

reactant | 4′-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-acetyl-phenyl ester | C(C)(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H15NO3
